US08686044B2
Preparation of N-(2,6-diiodo-4-(perfluorobutan-2-yl)phenyl)-3-nitrobenzamide
According to the method of 4-3 of Example 4, a target compound was prepared from 2,6-diiodo-4-(perfluorobutan-2-yl)aniline and 3-nitrobenzoyl chloride.

reactant | 2,6-diiodo-4-(perfluorobutan-2-yl)aniline | IC1=C(N)C(=CC(=C1)C(C(F)(F)F)(C(C(F)(F)F)(F)F)F)I | C10H4F9I2N
reactant | 3-nitrobenzoyl chloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
product | N-(2,6-diiodo-4-(perfluorobutan-2-yl)phenyl)-3-nitrobenzamide | IC1=C(C(=CC(=C1)C(C(F)(F)F)(C(C(F)(F)F)(F)F)F)I)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C17H7F9I2N2O3
